US05891875
4-benzyl-2-(R)-[1-[3,5-bis(trifluoromethyl)phenyl]ethenyloxy]-3-(S)-(4-fluorophenyl)morpholine
A solution of 4-benzyl-2-(R)-[3,5-bis(trifluoromethyl)benzyloxy]-3-(S)-(4-fluorophenyl)morpholine (2.50 g, 4.9 mmol) and dimethyl titanocene (2.50 g, 12.0 mmol) in 35 ml of a 1:1 v/v tetrahydrofuran:toluene mixture is stirred in an oil bath at 80° C. for sixteen hours. The reaction mixture is cooled and centrated in vacuo. Flash chromatography on 150 grams of silica gel using 3:1 v/v hexanes:methylene chloride as the eluant affords 1.71 grams (69%) of the title compound as a solid. If desired, an anlytical sample may be obtained by recrystallization from isopropanol.

reactant | 4-benzyl-2-(R)-[3,5-bis(trifluoromethyl)benzyloxy]-3-(S)-(4-fluorophenyl)morpholine | 4.9 mmol, 2.50 g | C(C1=CC=CC=C1)N1[C@H]([C@@H](OCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)F | C26H22F7NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | dimethyl titanocene | 12.0 mmol, 2.50 g | C[C-]1C=CC=C1.[C-]1(C=CC=C1)C.[Ti+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-benzyl-2-(R)-[1-[3,5-bis(trifluoromethyl)phenyl]ethenyloxy]-3-(S)-(4-fluorophenyl)morpholine | 1.71 grams, 69% | C(C1=CC=CC=C1)N1[C@H]([C@H](OCC1)OC(=C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)F | C27H22F7NO2
